US05519138
c) 2-n-Propyl-5-(2-methyl-propionylamino)-3-[4-[(α-carboxy)benzyloxy]benzyl]imidazo[4,5-b]pyridine
Prepared analogously to Example 1b from 2-n-propyl-5-(2-methylpropionylamino)-3-[4-[(α-ethoxycarbonyl)benzyloxy]benzyl]imidazo[4,5-b]pyridine and 1N sodium hydroxide solution in ethanol.

reactant | 2-n-propyl-5-(2-methylpropionylamino)-3-[4-[(α-ethoxycarbonyl)benzyloxy]benzyl]imidazo[4,5-b]pyridine | C(CC)C1=NC=2C(=NC(=CC2)NC(C(C)C)=O)N1CC1=CC=C(C=C1)OC(C1=CC=CC=C1)C(=O)OCC | C30H34N4O4
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-n-Propyl-5-(2-methyl-propionylamino)-3-[4-[(α-carboxy)benzyloxy]benzyl]imidazo[4,5-b]pyridine | C(CC)C1=NC=2C(=NC(=CC2)NC(C(C)C)=O)N1CC1=CC=C(C=C1)OC(C1=CC=CC=C1)C(=O)O | C28H30N4O4
